US09260408B2
[A] 6-(5-Hydroxymethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one
A microwave vial was charged with (5-bromo-pyridin-3-yl)-methanol (376 mg, 2.0 mmol), 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-1) (574 mg, 2.0 mmol) and DMF (4 mL). After purging the reaction mixture with argon, bis(triphenylphosphine)palladium(II)chloride (140 mg, 0.2 mmol) and 2 N aq. Na2CO3 solution (2.0 mL, 4 mmol) were added and the reaction was heated in the microwave at 120° C. for 50 min. The reaction mixture was diluted with EtOAc, filtered through Dicalite and washed with EtOAc (2×20 mL). The resulting filtrate was washed with brine, dried over anhydrous Na2SO4, filtered and evaporated to dryness. The residue was purified by silica gel flash chromatography eluting with a 0 to 5% MeOH-DCM gradient to give the title compound (198 mg, 74%) as a white solid. MS: 269.2 (M+H+).

reactant | (5-bromo-pyridin-3-yl)-methanol | 2.0 mmol, 376 mg | BrC=1C=C(C=NC1)CO | C6H6BrNO
reactant | 1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 2.0 mmol, 574 mg | CN1C(CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O | C16H22BNO3
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
reactant | Na2CO3 | 4 mmol, 2 N, 2.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.2 mmol, 140 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 6-(5-Hydroxymethyl-pyridin-3-yl)-1-methyl-3,4-dihydro-1H-quinolin-2-one | 198 mg, 74% | OCC=1C=C(C=NC1)C=1C=C2CCC(N(C2=CC1)C)=O | C16H16N2O2
